US09023840B2
Step 3: 5-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[1-(trifluoromethyl)cyclopropyl]pyrazine-2-carboxamide
Boron trifluoride etherate (0.52 mL, 4.1 mmol) was added to a solution of 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[1-(trifluoromethyl)cyclopropyl]pyrazine-2-carboxamide (0.90 g) in acetonitrile (20 mL) at 0° C. under N2. The reaction mixture was stirred at room temperature for 4 h. LCMS (M+H)+: m/z=539.2. The mixture was cooled to 0° C., water (10. mL) was added. After 30 min., 5.0 M ammonium hydroxide in water (2.5 mL) was added slowly at 0° C. in 5 min. Then the reaction mixture was stirred at room temperature overnight. The reaction mixture was worked up with saturated aqueous NaHCO3, extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with methanol in dichloromethylene (0-5%) to afford the desired product (0.69 g, 63%). LCMS (M+H)+: m/z=509.0. 1H NMR (300 MHz, DMSO-d6): δ 12.71 (br, 1H), 9.16 (s, 1H), 9.13 (s, 1H), 8.88 (s, 1H), 8.68 (d, J=1.2 Hz, 1H), 8.60 (s, 1H), 8.02 (d, J=1.2 Hz, 1H), 7.83 (dd, J=3.2, 2.5 Hz, 1H), 7.28 (dd, J=3.4, 1.4 Hz, 1H), 4.85 (d, J=9.8 Hz, 2H), 4.59 (d, J=10.0 Hz, 2H), 3.82 (s, 2H), 1.29 (m, 2H), 1.17 (m, 2H).

reactant | Boron trifluoride etherate | 4.1 mmol, 0.52 mL | B(F)(F)F.CCOCC
reactant | 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[1-(trifluoromethyl)cyclopropyl]pyrazine-2-carboxamide | 0.90 g | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)NC1(CC1)C(F)(F)F)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C29H33F3N10O2Si
reactant | ammonium hydroxide | 5.0 M | [OH-].[NH4+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 2.5 mL | O | H2O
product | 5-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[1-(trifluoromethyl)cyclopropyl]pyrazine-2-carboxamide | 0.69 g, 63% | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)NC1(CC1)C(F)(F)F)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C23H19F3N10O
